US08445505B2
To a mixture of 2,5-dichloro-N-(5-methyl-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-3-yl)pyrimidin-4-amine (150 mg, 0.45 mmol), tert-butyl 4-(6-amino-4-methylpyridin-3-yl)piperidine-1-carboxylate (120 mg, 0.41 mmol), Xantphos (24 mg, 0.04 mmol) and cesium carbonate (270 mg, 0.82 mmol) in THF (4 mL) was added palladium acetate (5 mg, 0.02 mmol). The mixture was purged with nitrogen and the tube was sealed. The mixture was heated in an oil bath at 100° C. for 5 h. The mixture was filtered and concentrated. The residue was purified with silica chromatography (70% ethyl acetate in hexanes) to afford tert-butyl 4-(6-(5-chloro-4-(5-methyl-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-4-methylpyridin-3-yl)piperidine-1-carboxylate as a yellow solid; ESMS m/z 583 (M+H+).

reactant | 2,5-dichloro-N-(5-methyl-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-3-yl)pyrimidin-4-amine | 0.45 mmol, 150 mg | ClC1=NC=C(C(=N1)NC1=NN(C(=C1)C)C1OCCCC1)Cl | C13H15Cl2N5O
reactant | tert-butyl 4-(6-amino-4-methylpyridin-3-yl)piperidine-1-carboxylate | 0.41 mmol, 120 mg | NC1=CC(=C(C=N1)C1CCN(CC1)C(=O)OC(C)(C)C)C | C16H25N3O2
reactant | Xantphos | 0.04 mmol, 24 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 0.82 mmol, 270 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
catalyst | palladium acetate | 0.02 mmol, 5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | tert-butyl 4-(6-(5-chloro-4-(5-methyl-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-4-methylpyridin-3-yl)piperidine-1-carboxylate | ClC=1C(=NC(=NC1)NC1=CC(=C(C=N1)C1CCN(CC1)C(=O)OC(C)(C)C)C)NC1=NN(C(=C1)C)C1OCCCC1 | C29H39ClN8O3
